US08669380B2
(1S,2S,3S,4R,5S)-5-[4-Chloro-3-(4-ethoxy-benzyl)-phenyl]-1-chloromethyl-6,8-dioxa-bicyclo[3.2.1]octane-2,3,4-triol
To a suspension of a mixture of (1S,2S,3S,4R,5S)-2,3,4-tris-benzyloxy-5-[4-chloro-3-(4-ethoxy-benzyl)-phenyl]-1-fluoromethyl-6,8-dioxa-bicyclo[3.2.1]octane and (1S,2S,3S,4R,5S)-2,3,4-tris-benzyloxy-5-[4-chloro-3-(4-ethoxy-benzyl)-phenyl]-1-chloromethyl-6,8-dioxa-bicyclo[3.2.1]octane (50 mg, 0.07 mmol) and palladium black (50 mg, 0.38 mmol, Aldrich® high surface area) in ethanol (0.5 mL) and tetrahydrofuran (0.1 mL) was added formic acid (0.10 mL, 2.80 mmol) and the resulting mixture was stirred at room temperature for 1.5 hours. Ethyl acetate was added and the mixture was filtered through a short pad of Celite® and concentrated in vacuo. The crude material was purified by flash chromatography over silica gel using a 4 g redisep silica cartridge (eluting with a gradient of 50 to 100% ethyl acetate in heptane) to afford the title compound as a solid (8.6 mg; ˜80% pure, contaminated with some Example 8).

reactant | (1S,2S,3S,4R,5S)-2,3,4-tris-benzyloxy-5-[4-chloro-3-(4-ethoxy-benzyl)-phenyl]-1-fluoromethyl-6,8-dioxa-bicyclo[3.2.1]octane | C(C1=CC=CC=C1)O[C@@H]1[C@@]2(CO[C@]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)(O2)C2=CC(=C(C=C2)Cl)CC2=CC=C(C=C2)OCC)CF | C43H42ClFO6
reactant | (1S,2S,3S,4R,5S)-2,3,4-tris-benzyloxy-5-[4-chloro-3-(4-ethoxy-benzyl)-phenyl]-1-chloromethyl-6,8-dioxa-bicyclo[3.2.1]octane | 0.07 mmol, 50 mg | C(C1=CC=CC=C1)O[C@@H]1[C@@]2(CO[C@]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)(O2)C2=CC(=C(C=C2)Cl)CC2=CC=C(C=C2)OCC)CCl | C43H42Cl2O6
reactant | formic acid | 2.80 mmol, 0.10 mL | C(=O)O | CH2O2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 0.1 mL | O1CCCC1 | C4H8O
catalyst | palladium black | 0.38 mmol, 50 mg | [Pd] | Pd
product | (1S,2S,3S,4R,5S)-5-[4-Chloro-3-(4-ethoxy-benzyl)-phenyl]-1-chloromethyl-6,8-dioxa-bicyclo[3.2.1]octane-2,3,4-triol | ClC1=C(C=C(C=C1)[C@]12[C@@H]([C@H]([C@@H]([C@](CO1)(O2)CCl)O)O)O)CC2=CC=C(C=C2)OCC | C22H24Cl2O6
